US07157447B2
3-Benzyloxy-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid.
Saponification of intermediate 14, ethyl 3-benzyloxy-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate, (0.225 g, 0.65 mmol) as described in the preparation of intermediate 7 gave 0.198 g (96% yield) of the title acid as white crystals; mp 167–168° C. (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ ppm: 1.68 (3H, d, J=6.6 Hz, CH3), 3.93 (2H, m, CH2), 4.12–4.21 (1H, m, CH), 4.27–4.35 (1H, m, CH), 4.70 (1H, q, J=6.6 Hz, OCH), 5.53 (2H, ABq, JAB=11.1 Hz, OCH2), 7.39 (3H, m, aromatics), 7.55 (2H, m, aromatics). MS (ESI+) m/z 317 [M+H+]. Anal. Calcd for C16H16N2O5: C, 60.75; H, 5.10; N, 8.86. Found: C, 60.65; H, 5.05; N, 8.72.

reactant | ethyl 3-benzyloxy-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylate | 0.65 mmol, 0.225 g | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)C)C(=O)OCC | C18H20N2O5
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-Benzyloxy-9-methyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid | 96% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)C)C(=O)O | C16H16N2O5
